US05292719
Using a Perrier modification, Perrier, Chem. Ber., Vol. 33, pp. 819 et seq. (1900), and Perrier, Bull. Soc. Chim. France, pp. 859 et seq. (1904), 1,3-dimethoxybenzene (138.0 g) (which may be obtained from Aldrich Chemical Company, Inc., Milwaukee, Wis.) is reacted with acetyl chloride (72.0 g), methylene chloride (500 ml), and aluminum chloride (145.0 g) to provide 2',4'-dimethoxy-acetophenone, which may then be purified using standard vacuum fractional distillation.

reactant | 1,3-dimethoxybenzene | 138.0 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | acetyl chloride | 72.0 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 145.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2',4'-dimethoxy-acetophenone | COC1=C(C=CC(=C1)OC)C(C)=O | C10H12O3
